US06686352B2
f) 5,7-Dihydro-2,10-dimethyl-6H-pyrimido[5,4-d][1]benzazepin-6-one (Compound of Formula II)
Analogous to Scheme 1, from 4-[(dimethylamino)methylene]-3,4-dihydro-7-methyl-1H-benzazepine-2,5-dione and acetamidine hydrochloride. Yield: 98%.

reactant | 4-[(dimethylamino)methylene]-3,4-dihydro-7-methyl-1H-benzazepine-2,5-dione | CN(C)C=C1CC(NC2=C(C1=O)C=C(C=C2)C)=O | C14H16N2O2
reactant | acetamidine hydrochloride | Cl.C(C)(=N)N
product | 5,7-Dihydro-2,10-dimethyl-6H-pyrimido[5,4-d][1]benzazepin-6-one | Yield: 98% | CC=1N=CC=2CC(NC3=C(C2N1)C=C(C=C3)C)=O | C14H13N3O
